US07910735B2
Production of 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (Compound No. 2-13)
3-Isobutyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline (874 mg, 3 mmol) was dissolved in dimethylsulfoxide (20 ml), followed by portion-wise adding sodium borohydride (340 g, 9 mmol) and stirring at 60° C. for 3 hours. The reaction solution was added with small amount of ice sequentially, followed by dropwise addition of acetic acid. The reaction solution was diluted with ethyl acetate, and washed four times with water. The solution was dried over magnesium sulfate and concentrated under reduced pressure to obtain 830 mg of the desired compound.

reactant | 3-Isobutyl-4-[1,2,2,2-tetrafluoro-1-(trifluoromethyl)ethyl]aniline | 3 mmol, 874 mg | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)(C(F)(F)F)F | C13H14F7N
reactant | sodium borohydride | 9 mmol, 340 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 830 mg, Yield: 99% | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)C(F)(F)F | C13H15F6N
